US08735424B2
To a solution of 4-(benzyloxy)-6-(6-(2,6-difluorophenyl)pyridin-2-yl)quinoline (1.0 equiv.) in 1:1 EtOH/EtOAc, at a concentration of 0.1 M, was added 10% palladium on carbon (0.1 eq.). The resultant heterogeneous solution was put under an atmosphere of hydrogen and was stirred for 72 hours. At this time the mixture was filtered through a pad of celite eluting with EtOAc. The volatiles were removed in vacuo yielding 6-(6-(2,6-difluorophenyl)pyridin-2-yl)quinolin-4-ol (70%). LCMS (m/z): 335.0 (MH+); LC Rt=3.09 min.

reactant | 4-(benzyloxy)-6-(6-(2,6-difluorophenyl)pyridin-2-yl)quinoline | 1.0 equiv. | C(C1=CC=CC=C1)OC1=CC=NC2=CC=C(C=C12)C1=NC(=CC=C1)C1=C(C=CC=C1F)F | C27H18F2N2O
catalyst | palladium on carbon | 0.1 eq. | [Pd] | Pd
solvent | EtOH EtOAc | CCO.CCOC(=O)C
product | 6-(6-(2,6-difluorophenyl)pyridin-2-yl)quinolin-4-ol | 70% | FC1=C(C(=CC=C1)F)C1=CC=CC(=N1)C=1C=C2C(=CC=NC2=CC1)O | C20H12F2N2O
